Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Admitted for cyclophosphamide infusion 
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
The patient is a ___ year old male with a diagnosis of multiple 
myeloma in ___ with T4 plasmacytoma s/p spinal fusion and 
XRT, s/p 4 cycles of Velcade/Decadron complicated by severe 
neuropathy and constipation.  He is being admitted today for 
cyclophosphamide infusion.
.
He initially presented with non-specific chest pain and was 
found to have a T4 compression fracture on  CTA to evaluation of 
PE. MRI revealed  pathologic fracture at T4 level with 
compression of the vertebral body and retropulsion and enhancing 
epidural and paraspinal soft tissues. Skeletal survey revealed 
no other lesions.  He had a normal CBC and differential as well 
as renal function and calcium level. Hospitalization was also 
complicated by severe constipation.

.
At this time the patient reports diffuse bilateral ___ pain 
increasing over the past two weeks residing at about ___. He 
states that this is secodary to neurotoxicity from chemo. He 
reports associated subjective weakness but reports that pain is 
not disabiling. He reports associated numbness of bilateral 
plantar region of feet and of hands. He states that he was given 
oxycodone and hydrocodone today which helped.

He also reports loose bowel movements since discharge from 
recent hospitalization for constipation as he has been taking 
miralax and colace regularly. He reports four or more loose 
bowel movements per day. He denies abdominal pain, nausea, 
vomiting, bloody stools, black stools. 
 
Past Medical History:
ONCOLOGICAL HISTORY: 
# Multiple Myeloma
-- (___) Diagnosed after pathological T4 vertebral fracture
-- (___) Skeletal survey without other lesions
-- (___) T4 vertebrectomy and anterior T3-5 fusion
-- (___) Pathology of spinal lesion shows plasmacytoma
-- (___) Posterior T1-T8 fusion
-- (___) Bone marrow biopsy with plasma cell dyscrasia
-- Hypocellular bone marrow with trilineage hematopoiesis and 
clusters of plasma cells. CD138 highlight small clusters of 
plasma cells, which by kappa lambda staining are kappa 
monotypic.
-- Normal cytogenetics
-- (___) Started XRT and Velcade/Decadron
-- (___) Enrolled in protocol ___ (Blockage of PD-1 In 
Conjunction with the Dendritic Cell/Myeloma Vaccines following 
Stem Cell Transplantation)
-- (___) Skeletal survey without other lesions
-- (___) Cellular marrow aspirate with maturing trilineage 
hematopoiesis. Diagnostically inadequate due to lack of core 
biopsy.
.
OTHER PAST MEDICAL HISTORY:
Hyperlipidemia

 
Social History:
___
Family History:
Sister with breast cancer diagnosed at unknown age
Negative for neoplasm, immunosuppression, bleeding, or clotting 
disorders. Mom died in ___ ___ disease. Father died 
at ___ of heart disease.

 
Physical Exam:
PHYSICAL EXAMINATION:  
VS: T 98.3, BP 144/96, HR 112, RR 20, Wt: 173.4. Ht: 70.5. 
Pain-3 
Gen: Middle aged male in NAD.   
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. MMM, clear OP 
Neck: Supple, full ROM. JVP not elevated. No cervical 
lymphadenopathy.   
CV: RRR with normal S1, S2. No M/R/G. No S3 or S4.  
Chest: Respiration unlabored, no accessory muscle use. CTAB 
without crackles, wheezes, or rhonchi.  
Abd: Bowel sounds present. ND, NT, no rebound 
Ext: 2+ distal pulses, no c/c/e  
Skin: no rashes 
Neuro: CN II-XII grossly intact. Sensation to light touch intact 
in lower extremities. Strength ___ in all extremities. 
 
Pertinent Results:
ADMISSION LABS

___ 12:15PM   ___ PTT-26.7 ___
___ 12:15PM   PLT COUNT-312
___ 12:15PM   NEUTS-80.2* LYMPHS-10.7* MONOS-7.3 EOS-1.4 
BASOS-0.5
___ 12:15PM   WBC-7.7 RBC-4.89 HGB-14.4 HCT-42.3 MCV-87 
MCH-29.5 MCHC-34.1 RDW-15.4
___ 12:15PM   TOT PROT-6.6 CALCIUM-9.4 PHOSPHATE-4.0 
MAGNESIUM-2.2 URIC ACID-3.9
___ 12:15PM   ALT(SGPT)-13 AST(SGOT)-20 LD(LDH)-209 ALK 
PHOS-112 TOT BILI-0.3
___ 12:15PM   UREA N-12 CREAT-0.7 SODIUM-136 POTASSIUM-4.4 
CHLORIDE-101 TOTAL CO2-21* ANION GAP-18
___ 12:15PM   GLUCOSE-105*

DISCHARGE LABS 

___ 05:45AM BLOOD WBC-6.9 RBC-3.69* Hgb-11.2*# Hct-32.7* 
MCV-89 MCH-30.2 MCHC-34.2 RDW-15.6* Plt ___
___ 05:45AM BLOOD Neuts-78.2* Lymphs-10.9* Monos-8.3 
Eos-2.1 Baso-0.5
___ 05:45AM BLOOD ___ PTT-26.4 ___
___ 05:45AM BLOOD Glucose-85 UreaN-7 Creat-0.7 Na-138 K-3.6 
Cl-104 HCO3-25 AnGap-13
___ 05:45AM BLOOD ALT-13 AST-14 LD(LDH)-127 AlkPhos-78 
TotBili-0.2
___ 05:45AM BLOOD Albumin-3.5 Calcium-7.6* Phos-3.1 Mg-1.9 
UricAcd-4.2
 
Brief Hospital Course:
The patient is a ___ yo man with a recent diagnosis of MM with a 
large paraspinal plamacytoma now s/p 3 cycles of velcade/dex 
with neuropathy admitted for cytoxan for stem cell mobilization 
with plan for autologous transplant.
.
# Multiple Myeloma
The patient received Cyclophosphamide ___ mg IV Q3H overnight x 
3 doses. He also received Mesna 1190 mg IV Q3H 15 minutes prior 
to Cyclophosphamide then Q3H x4, for total of 5 doses. The 
patient tolerated these infusions without complication. He was 
discharged the next day.
.
___ pain
The patient experiences chronic neuropathic pain secondary to 
chemotherapy drug toxicity. During this admission, we increased 
the doses of neurontin and amitriptyline and added oxycontin, 
based on Dr ___. We reviewed the risks of 
increased somnolence with the patient prior to discharge. He was 
discharged on the following medications:
- Neurontin 600 qam, 600 in afternoon and 900 at night
- Amitriptyline to 59 qhs
- Oxycontin 30 bid, diluaded 2mg q4h PRN

# Loose stools
Since recent hospitalization for constipation, the patient has 
been on an aggressive bowel regimen and having multiple loose 
stools per day. We recommend decreasing miralax. He was 
discharged on the following: 
- Colace 100 mg po TID, senna
- Miralax PRN to maintain bowel movement q ___ days with these 
medications. 

 
Medications on Admission:
ACYCLOVIR - 400 mg Tablet - 1 Tablet(s) by mouth three times a
day Please dispense a 3month supply
AMITRIPTYLINE - 25 mg Tablet - 1 Tablet(s) by mouth bedtime
CIPROFLOXACIN - 500 mg Tablet - 1 Tablet(s) by mouth twice a day
FOLIC ACID - 1 mg Tablet - 1 Tablet(s) by mouth daily
GABAPENTIN - 300 mg Capsule - 1 Capsule(s) by mouth three times 
a
day
HYDROMORPHONE -  (Prescribed by Other Provider) - 2 mg Tablet - 
1
Tablet(s) by mouth  PRN pain
LORAZEPAM -  (Prescribed by Other Provider) - 1 mg Tablet - 1
Tablet(s) by mouth every six (6) hours as needed for anxiety
Patient reports taking just 0.5mg
OMEPRAZOLE -  (Dose adjustment - no new Rx) - 20 mg Capsule,
Delayed Release(E.C.) - 1 Capsule(s) by mouth daily
ONDANSETRON HCL - 8 mg Tablet - 1 Tablet(s) by mouth every eight
(8) hours as needed for nausea
PROCHLORPERAZINE MALEATE -  (Dose adjustment - no new Rx) - 10 
mg
Tablet - 1 Tablet(s) by mouth q6-8h as needed for nausea
ACETAMINOPHEN -  (OTC) - 500 mg Tablet - 2 Tablet(s) by mouth 
PRN for leg pain
ASPIRIN -  (Dose adjustment - no new Rx) - 81 mg Tablet, Delayed
Release (E.C.) - 1 Tablet(s) by mouth daily ON HOLD ON HOLD ON
HOLD ON HOLD
B COMPLEX VITAMINS [B COMPLEX-VITAMIN B12] -   Tablet - 1
Tablet(s) by mouth daily
DOCUSATE SODIUM -  (Prescribed by Other Provider) - 100 mg
Capsule - 2 Capsule(s) by mouth twice a day
POLYETHYLENE GLYCOL 3350 [MIRALAX] -  (Dose adjustment - no new
Rx) - 17 gram Powder in Packet - 1 Powder(s) by mouth daily
 
Discharge Medications:
1. lorazepam 0.5 mg Tablet Sig: ___ Tablets PO Q4H (every 4 
hours) as needed for nausea/anxiety/insomnia.
Disp:*30 Tablet(s)* Refills:*0*
2. acyclovir 400 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours).
Disp:*90 Tablet(s)* Refills:*2*
3. amitriptyline 50 mg Tablet Sig: One (1) Tablet PO at bedtime.
Disp:*30 Tablet(s)* Refills:*2*
4. hydromorphone 2 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed for pain.
Disp:*30 Tablet(s)* Refills:*0*
5. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).
Disp:*30 Capsule, Delayed Release(E.C.)(s)* Refills:*2*
6. gabapentin 300 mg Capsule Sig: as directed Capsule PO three 
times a day: Take 2 capsules in the morning, 2 capsules in the 
afternoon, and 3 capsules at bedtime.
Disp:*300 Capsule(s)* Refills:*2*
7. prochlorperazine maleate 10 mg Tablet Sig: One (1) Tablet PO 
Q6H (every 6 hours) as needed for nausea.
Disp:*30 Tablet(s)* Refills:*0*
8. folic acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

9. B complex vitamins     Capsule Sig: One (1) Cap PO DAILY 
(Daily).  
10. acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain.
Disp:*qs Tablet(s)* Refills:*0*
11. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO three 
times a day.
Disp:*90 Capsule(s)* Refills:*2*
12. polyethylene glycol 3350 17 gram/dose Powder Sig: One (1) 
packet PO DAILY (Daily) as needed for constipation: Use as 
needed to maintain one to two bowel movements per day.
Disp:*qs packet* Refills:*0*
13. senna 8.6 mg Capsule Sig: One (1) Capsule PO once a day.
Disp:*30 Capsule(s)* Refills:*2*
14. OxyContin 15 mg Tablet Extended Release 12 hr Sig: One (1) 
Tablet Extended Release 12 hr PO twice a day as needed for pain.
Disp:*30 Tablet Extended Release 12 hr(s)* Refills:*0*
15. Neupogen 480 mcg/0.8 mL Syringe Sig: One (1)  Injection once 
a day: start on ___.  
___. ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO twice a 
day: start on ___.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: Multiple Myeloma
Secondary Diagnosis: Peripheral neuropathy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,

It was a pleasure taking care of you. Your were admitted to the 
hospital to receive  a short course of chemotherapy as part of 
your treatment for multiple myeloma. You tolerated the infusion 
well and had no complications. You will follow up with Dr 
___ further management. 

Upon discharge, we have given you prescriptions for the 
following medications, according to Dr ___ 
recommendations for your leg pain: 
- Neurontin 600mg qam, 600mg in afternoon and 900mg at night
- Amitriptyline to 50mg at night
- Oxycontin 15 twice daily,
- dilaudid 2mg q4h as needed
- Colace 100 mg po Three times a day
-Senna daily
- Miralax as needed to maintain bowel movement every ___ days.

Medication changes:
Increase Gabapentin and amitriptyline

New Medications:
Senna
Oxycontin
 
Followup Instructions:
___